US07943634B2
Step 4: 2-ethoxycarbonyl-7-methoxy-3-methylbenzo[b]furan-4-carboxylic acid
The solution of ethyl 4-formyl-7-methoxy-3-methylbenzo[b]furan-2-carboxylate (3.0 g, 11.4 mmol) in acetone (30 ml) was cooled to 10-20° C. Sulfamic acid (1.55 g, 17.1 mmol) was added at once to the reaction mixture at 10-20° C. Then solution of sodium chlorite (1.6 g, 17.1 mmol) in water (10 ml) was added dropwise at the same temp. Water (100 ml) was added to reaction mixture. Acetone was distilled off under vacuum. The solid obtained was filtered and suck dried. Yellow coloured solid (3.0 g) was obtained.

reactant | ethyl 4-formyl-7-methoxy-3-methylbenzo[b]furan-2-carboxylate | 11.4 mmol, 3.0 g | C(=O)C1=CC=C(C=2OC(=C(C21)C)C(=O)OCC)OC | C14H14O5
reactant | Sulfamic acid | 17.1 mmol, 1.55 g | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 17.1 mmol, 1.6 g | Cl(=O)[O-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | Water | 100 ml | O | H2O
product | 2-ethoxycarbonyl-7-methoxy-3-methylbenzo[b]furan-4-carboxylic acid | C(C)OC(=O)C1=C(C2=C(O1)C(=CC=C2C(=O)O)OC)C | C14H14O6
